US07897767B2
A mixture of tert-butyl 4-[(5,6-dimethyl-8-nitrotetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate (9.00 g, 23.7 mmol), 10% palladium on carbon (900 mg), and acetonitrile (100 mL) was hydrogenated on a Parr apparatus for 5 hours. The mixture was filtered through CELITE filter agent, which was rinsed afterwards with methanol. The filtrate was concentrated under reduced pressure to yield 6.70 g of tert-butyl 4-[(8-amino-5,6-dimethyltetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate.

reactant | tert-butyl 4-[(5,6-dimethyl-8-nitrotetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate | 23.7 mmol, 9.00 g | CC1=C(C(=C(C=2N1N=NN2)[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O)C | C16H25N7O4
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | tert-butyl 4-[(8-amino-5,6-dimethyltetraazolo[1,5-a]pyridin-7-yl)amino]butylcarbamate | 6.70 g | NC=1C=2N(C(=C(C1NCCCCNC(OC(C)(C)C)=O)C)C)N=NN2 | C16H27N7O2
